US04386073
1.32 g (5 mmoles) of H-Leu-Pro-NH2.HCl are suspended in 20 ml of DMFA, and 1.61 g (5.2 mmoles) of Kpc-OPFP and 0.7 ml (5 mmoles) of triethylamine are added to the stirred suspension under ice cooling. After 5 minutes of stirring further 0.7 ml (5 mmoles) of triethylamine are added, the mixture is stirred for additional 20 minutes, and then evaporated in vacuo. The crystalline residue is triturated with ether, the crystals are filtered off, and washed with ether and cold chloroform. 1.27 g (72%) of Kpc-Leu-Pro-NH2 are obtained; m.p.: 214°-216° C., Rf5 =0.41, [α]D25 =-80.3° (c=1%, in acetic acid). Analysis for amino acids: α-amino-adipic acid: 0.99 (1.0), Leu: 1.00 (1.0), Pro: 0.98 (1.0).

reactant | H-Leu-Pro-NH2.HCl | 5 mmoles, 1.32 g | N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1.Cl
reactant | triethylamine | 5 mmoles, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 5 mmoles, 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | DMFA | 20 ml | CN(C)C=O | C3H7NO
product | Leu-Pro-NH2 | N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCC1 | C11H21N3O2
